US07910740B2
[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(5-phenylmethanesulfonyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-amine
The title compound was prepared in analogy to example 45 from 90 mg (0.2 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-amine trihydrochloride and 39 mg (0.2 mmol) alpha-toluenesulphonylchloride yielding 18 mg (18%) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(5-phenylmethanesulfonyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-amine as a yellow solid. MS ISP (m/e): 496.1 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.36 (s, 1H), 7.64 (s, 1H), 7.47 (s, 1H), 7.38-7.35 (m, 6H), 7.30 (d, 1H), 7.25 (d, 1H), 7.02 (s, 1H), 4.50 (s, 2H), 4.29 (s, 2H), 3.78 (s, 3H), 3.48 (t, 2H), 2.64 (br t, 2H), 2.14 (s, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-amine trihydrochloride | 0.2 mmol, 90 mg | Cl.Cl.Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC=2CNCCC2N1
reactant | alpha-toluenesulphonylchloride | 0.2 mmol, 39 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(5-phenylmethanesulfonyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-amine | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC=2CN(CCC2N1)S(=O)(=O)CC1=CC=CC=C1 | C24H25N5O3S2
